US08044041B2
A mixture 6-bromo-4-chloro-2H-phthalazin-1-one (200 mg, 0.770 mmol), [3-(1-pyrrolidinylmethyl)phenyl]methanamine (161 mg, 0.848 mmol), Pd2(dba)3 (71 mg, 0.077 mmol), rac-BINAP (144 mg, 0.231 mmol) and NaOtBu (230 mg, 2.393 mmol) in DMA (6 mL) was heated at 85° C. for 1.5 h. The mixture was allowed to cool, diluted with EtOAc and washed with water. The organic layer was washed with sat.aq. NaHCO3, brine and dried (Na2SO4). Chromatography (Hexanes/EtOAc) afforded 4-chloro-6-(3-pyrrolidin-1-ylmethyl-benzylamino)-2H-phthalazin-1-one (15 mg) as a yellow solid. 1H (400 MHz, d6-DMSO) δ: 1.62 (m, 4H), 2.38 (m, 4H), 3.55 (m, 2H), 4.44 (d, 2H), 6.80 (s, 1H), 7.17 (m, 2H), 7.3 (m, 3H), 7.68 (m, 1H), 7.92 (d, 1H), 12.34 (s, 1H) ppm; m/z (M+1) 369.26.

reactant | 6-bromo-4-chloro-2H-phthalazin-1-one | 0.770 mmol, 200 mg | BrC=1C=C2C(=NNC(C2=CC1)=O)Cl | C8H4BrClN2O
reactant | [3-(1-pyrrolidinylmethyl)phenyl]methanamine | 0.848 mmol, 161 mg | N1(CCCC1)CC=1C=C(C=CC1)CN | C12H18N2
reactant | rac-BINAP | 0.231 mmol, 144 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | NaOtBu | 2.393 mmol, 230 mg | CC(C)(C)[O-].[Na+]
solvent | DMA | 6 mL | CC(=O)N(C)C | C4H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd2(dba)3 | 0.077 mmol, 71 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-chloro-6-(3-pyrrolidin-1-ylmethyl-benzylamino)-2H-phthalazin-1-one | 15 mg | ClC1=NNC(C2=CC=C(C=C12)NCC1=CC(=CC=C1)CN1CCCC1)=O | C20H21ClN4O
